US07759337B2
Step 1: 7-Iodo-6-methylbenzo[d]isoxazol-3-amine
To a 250 mL three necked round-bottomed flask equipped with a mechanical stirrer under nitrogen was added anhydrous DMF (100 mL) and acetohydroxamic acid (4.65 g, 62 mmol). After a clear solution was obtained, potassium tert-butoxide (6.94 g, 62 mmol) was added. The cloudy white mixture was allowed to stir for 30 min. 2-Fluoro-3-iodo-4-methylbenzonitrile (8.0 g, 31 mmol) was added and the reaction mixture was allowed to stir at RT for 6 h. Additional acetohydroxarnic acid (1.16 g, 15.5 mmol) and potassium tert-butoxide (1.74 g, 15.5 mmol) were added, and stirring continued for 12 h. The reaction mixture was distilled under reduced pressure to remove most of the DMF and the residue was partitioned between ethyl acetate (250 mL) and sat. aqueous ammonium chloride (50 mL). The aqueous layer was washed with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (50 mL), dried over MgSO4, and then evaporated under reduced pressure. The crude product was loaded on an ISCO column (330 g, eluted with 20-70% ethyl acetate in hexanes) to provide the title compound as an off white crystalline solid. MS (ESI, pos. ion) m/z: 275.0 (M+1).

reactant | acetohydroxamic acid | 62 mmol, 4.65 g | C(C)(=O)NO | C2H5NO2
reactant | potassium tert-butoxide | 62 mmol, 6.94 g | CC(C)([O-])C.[K+]
reactant | 2-Fluoro-3-iodo-4-methylbenzonitrile | 31 mmol, 8.0 g | FC1=C(C#N)C=CC(=C1I)C | C8H5FIN
reactant | acetohydroxarnic acid | 15.5 mmol, 1.16 g | C(C)(=O)NO | C2H5NO2
reactant | potassium tert-butoxide | 15.5 mmol, 1.74 g | CC(C)([O-])C.[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 7-Iodo-6-methylbenzo[d]isoxazol-3-amine | IC1=C(C=CC=2C(=NOC21)N)C | C8H7IN2O
